US05750531
Synthesis of 6-ethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoroaniline(0.38 ml, 4.01 mmol) was added to a mixture solution of 6-ethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine (0.57 g, 1.98 mmol) and dimethylformamide (5 ml), 0.17 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1

reactant | 4-fluoroaniline | 4.01 mmol, 0.38 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 6-ethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 1.98 mmol, 0.57 g | C(C)C1=CC(=NC(=N1)Cl)N1C(C2=CC=CC=C2CC1)C | C16H18ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-ethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.17 g, Yield: 22% | Cl.C(C)C1=CC(=NC(=N1)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C22H23FN4.ClH/c1-3-18-14-21(26-22(24-18)25-19-10-8-17(23)9-11-19)27-13-12-16-6-4-5-7-20(16)15(27)2;/h4-11,14-15H,3,12-13H2,1-2H3,(H,24,25,26);1H
